US06326359B1
(2R,3R,4S,5R)-2-{2-(Aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(methoxymethyl)tetrahydro-3,4-furandiol
A solution of 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile (preparation 12) (2.15 g, 4.42 mmol) in ethanol (120 ml) saturated with ammonia gas was treated with 5% palladium on charcoal (1 g), pressurised to 1034 kPa (150 psi) with hydrogen in a sealed vessel and stirred at room temperature for 24 hr. The mixture was then filtered through Arbocel (trade mark) and the residue washed with ethanol. The solvent was removed under reduced pressure from the filtrate, the residue dissolved in ethanol and the solvent again removed under reduced pressure. A solid precipitated on re-evaporation which was then dissolved in hot ethanol (100 ml) and the solution cooled and filtered. The residue was washed with ethanol then diethyl ether and dried to give the title compound as an off white solid (1.05 g, 48%). The filtrate and washings were combined and the solvent removed under reduced pressure to give a residue which was then triturated with dichloromethane and a few drops of ethanol and filtered to afford a further portion of product (0.45 g). MS: 491 (MH+).

reactant | 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile | 4.42 mmol, 2.15 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C#N | C26H26N6O4
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | (2R,3R,4S,5R)-2-{2-(Aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(methoxymethyl)tetrahydro-3,4-furandiol | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H30N6O4
